US06642384B1
Preparation of (S)-1,2,3,4-tetrahydro-6,7-dihydroxy-3-isoquinolinecarboxylic Acid
To a cold (0-5° C.) suspension of Levodopa (197.2 g, 1.0 mol) in water (1.18 L) was added 32% aqueous HCl (159.5 g, 1.4 mol). The resulting solution was cooled to 0-5° C., and 37% formaldehyde water solution (243.24 g, 3.0 mol) was added. The resulting solution was allowed to warm to 20-25° C., and stirred at 20-25° C. for 10 h. The reaction solution was cooled to 0-5° C., and 2 N aqueous NaOH (700 mL, 1.4 mol) was slowly added to adjust pH to 5-5.5. White or light yellow solids precipitated during the addition. The resulting suspension was stirred at 0-5° C. for 2-3 h. The mixture was filtered, and rinsed with water (2×500 mL). The solids were dried under vacuum to give 199.52 g of a light yellow solid. Yield=95.3%.

reactant | Levodopa | 1.0 mol, 197.2 g | C1=CC(=C(C=C1C[C@@H](C(=O)O)N)O)O | C9H11NO4
reactant | HCl | 1.4 mol, 159.5 g | Cl | ClH
reactant | formaldehyde water | 3.0 mol, 243.24 g | O.C=O
reactant | NaOH | 1.4 mol, 2 N, 700 mL | [OH-].[Na+]
solvent | water | 1.18 L | O | H2O
product | (S)-1,2,3,4-tetrahydro-6,7-dihydroxy-3-isoquinolinecarboxylic Acid | 199.52 g, Yield=95.3% | OC=1C=C2C[C@H](NCC2=CC1O)C(=O)O | C10H11NO4
